US07018997B2
Step 1: Preparation of (5-Methyl-6,7,8,9-tetrahydro-[1,2,4]triazolo[1,5-a]quinazolin-2-yl)-methanol:
To a round bottomed flask was loaded 4.2 grams of 2-acetylcyclohexanone, 3.52 grams of (5-Amino-1H-[1,2,4]triazol-3-yl)-methanol and 50 ml 2-methoxyethanol. The mixture was refluxed for 18 hours. Then it was cooled down to 23° C. and concentrated to 5 ml. Then 50 ml ethyl ether was added and the precipitate was filtered and vacuum dried to yielded 3.32 grams of product Yield. 49%. This compound was used directly for the next step. MS: 219.2(M+H). H-NMR(DMSO): δ 5.49(t, 1H, OH, J=6 Hz), 4.61(d, 2H, J=6 Hz), 3.24 (m, 2H), 2.93 (m, 2H), 2.69 (s, 3H), 2.52 (s, 2H), 1.84 (m, 4H).

reactant | 2-acetylcyclohexanone | 4.2 grams | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | (5-Amino-1H-[1,2,4]triazol-3-yl)-methanol | 3.52 grams | NC1=NC(=NN1)CO | C3H6N4O
solvent | 2-methoxyethanol | 50 ml | COCCO | C3H8O2
product | (5-Methyl-6,7,8,9-tetrahydro-[1,2,4]triazolo[1,5-a]quinazolin-2-yl)-methanol | 3.32 grams | CC1=NC=2N(C=3CCCCC13)N=C(N2)CO | C11H14N4O
